US05210247
About 6.21 g (23.5 mMol) of 4-(5-hexenyloxy)-1-trimethylsilyloxy benzene, 3.48 g (23.5 mMol) of pentamethyldisiloxane and 694 mg (17.7 μMol of Pt) of 0.5 percent cyclopentadienylplatinum dichloride solution (dichloromethane) were refluxed for 7 hours in 25 ml of toluene. After the hydrosilylation was complete, the toluene was removed by vacuum distillation on a rotary evaporator. The crude product was purified by chromatography on silica gel. Further chromatography on silica gel using petroleum ether/ethyl acetate mixtures on a Harrison Research chromatotron gave 94 percent pure 4-(1-pentamethyldisiloxanylhexyloxy)phenol as a pale yellow liquid.

reactant | 4-(5-hexenyloxy)-1-trimethylsilyloxy benzene | 23.5 mMol, 6.21 g | C(CCCC=C)OC1=CC=C(C=C1)O[Si](C)(C)C | C15H24O2Si
reactant | pentamethyldisiloxane | 23.5 mMol, 3.48 g | C[SiH](O[Si](C)(C)C)C | C5H16OSi2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | cyclopentadienylplatinum dichloride | 17.7 μMol, 694 mg | C1(C=CC=C1)[Pt](Cl)Cl
product | 4-(1-pentamethyldisiloxanylhexyloxy)phenol | 94 percent | C[Si](O[Si](C)(C)C)(C(CCCCC)OC1=CC=C(C=C1)O)C | C17H32O3Si2
